US04486586
7-[(Z)-2-(2-Aminothiazol-4-yl)-2-(1-carboxycyclobut-1-oxyimino)acetamido]-3-[(E)-3-pyridinio-1-propen-1-yl]-3-cephem-4-carboxylate (I-5B)
Pyridine (0.1 ml, 1.2 mmole) was added to a solution of diphenylmethyl 7-[(Z)-2-(1-t-butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate (X-5', 659 mg, 9.6 mmole) in dichloromethane (7 ml). The mixture was stirred at room temperature for 2.5 hours and diluted with diisopropyl ether. The resulting solid (383 mg) was collected by filtration and treated with 90% trifluoroacetic acid (5 ml) and anisole (1 ml) at room temperature for 1 hour. The resulting mixture was concentrated and the residue was triturated with ether to give 237 mg of crude I-5B, which was purified by HP-20 column chromatography [eluted with water (150 ml), 10% methanol (200 ml) and 30% methanol (500 ml)]. The eluate of 30% methanol was concentrated to a small volume, adjusted to pH 7 with sodium bicarbonate and lyophilized to afford 72 mg (21%) of I-5B. M.P. >160° C. (dec.).

reactant | Pyridine | 1.2 mmole, 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | diphenylmethyl 7-[(Z)-2-(1-t-butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)C1(CCC1)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=CCI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C56H52IN5O7S2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-(1-carboxycyclobut-1-oxyimino)acetamido]-3-[(E)-3-pyridinio-1-propen-1-yl]-3-cephem-4-carboxylate | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)=N/OC1(CCC1)C(=O)O | C25H24N6O7S2
